US06486342B1
(2-(2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-methyl]-phenoxy}-2-methyl-propionylamino)-3-(1H-indol-3-yl)-propionic acid (D) (32), (KDD4-111)
Using RSR13 acid (1.5 g, 4.4 mmol), tryptophan methyl ester hydrochloride (1.12 mg, 4.4 mmol) and 1-hydroxybenzotriazole hydrate (653 mg, 4.8 mmol), N-methylmorpholine (666 mg, 7.5 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.01 g, 6.0 mmol) in dimethylformamide (30 mL), the product was prepared in 2.3 g yield (96%)

reactant | RSR13 | 4.4 mmol, 1.5 g | CC=1C=C(C=C(C1)NC(=O)CC=2C=CC(=CC2)OC(C)(C)C(=O)O)C | C20H23NO4
reactant | tryptophan methyl ester hydrochloride | 4.4 mmol, 1.12 mg | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | 1-hydroxybenzotriazole hydrate | 4.8 mmol, 653 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 7.5 mmol, 666 mg | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.0 mmol, 1.01 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-(2-{4-[(3,5-Dimethyl-phenylcarbamoyl)-methyl]-phenoxy}-2-methyl-propionylamino)-3-(1H-indol-3-yl)-propionic acid | CC=1C=C(C=C(C1)C)NC(=O)CC1=CC=C(OC(C(=O)NC(C(=O)O)CC2=CNC3=CC=CC=C23)(C)C)C=C1 | C31H33N3O5
